US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]-dioxole-2,2-dicarboxylic acid bis-methoxycarbonylmethyl ester
To a stirred solution of 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-methoxycarbonyl-methyl ester (330 mg, 0.50 mmol) and CH2Cl2 (10 mL) was added trifluoroacetic acid (0.08 mL, 113 mg, 0.99 mmol). After stirring at 23° C. for 1 h, additional trifluoroacetic acid (0.08 mL, 113 mg, 0.99 mmol) was added. After a total of 22 h, the mixture was quenched with 5 mL of sat. aq. NaHCO3, and extracted with 3×30 mL of EtOAc. The combined organics were washed with 1×50 mL of brine, dried over MgSO4, filtered and concentrated to a yellow oil. Flash chromatography on silica gel, eluting with CHCl3 /MeOH (20/1 to 10/1) gave 145 mg (52%) of product as a white gum; 1H NMR (300 MHz, CDCl3): δ 1.33 (m, 3H), 1.70-2.40 (brm, 2H), 2.73-2.90 (brt, 1H), 3.04-3.30 (m, 2H), 3.37-3.53 (m, 2H), 3.75 (s, 3H), 3.76 (s, 3H), 4.80 (s, 2H), 4.81 (s, 2H), 5.40 (m, 1H), 6.73-6.93 (complexm, 4H), 7.15-7.32 (m, 2HO, 7.43 (s, 1H); MS (ES) m/z (relative intensity): 566 (M+, 80), 508 (M+ -CO2CH3 +H, 100), 450 (M+ -2CO2CH3 +2H, 30).

reactant | 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-methoxycarbonyl-methyl ester | 0.50 mmol, 330 mg | COC(=O)C(C(=O)OC)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)O | C30H34ClNO13
reactant | trifluoroacetic acid | 0.99 mmol, 0.08 mL, 113 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 0.99 mmol, 0.08 mL, 113 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]-dioxole-2,2-dicarboxylic acid bis-methoxycarbonylmethyl ester | 145 mg, 52% | COC(=O)C(C(=O)OC)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)O | C25H26ClNO11
